US07759379B2
4-(3,3-Dimethyl-6-nitro-2,3-dihydro-indol-1-ylmethyl)-piperidine-1-carboxylic acid tert-butyl ester
A process vial with a suspension of 1 g 3,3-dimethyl-6-nitro-2,3-dihydro-1H-indole, 1.59 g 4-bromomethyl-piperidine-1-carboxylic acid tert-butyl ester and 1.17 g potassium tert-butoxide in 10 ml N,N-dimethylformamide was sealed with a teflon septum and placed in the microwave cavity. The reaction mixture was stirred for 15 minutes at 100° C. by microwave-assisted heating (Emrys Optimizer, Personal Chemistry). After removal of the solvent under reduced pressure the residue was purified by flash chromatography on silica gel with a n-heptane/ethylacetate gradient. The fractions containing the product were combined and evaporated to yield a white solid.

reactant | 3,3-dimethyl-6-nitro-2,3-dihydro-1H-indole | 1 g | CC1(CNC2=CC(=CC=C12)[N+](=O)[O-])C | C10H12N2O2
reactant | 4-bromomethyl-piperidine-1-carboxylic acid tert-butyl ester | 1.59 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CBr | C11H20BrNO2
reactant | potassium tert-butoxide | 1.17 g | CC(C)([O-])C.[K+]
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 4-(3,3-Dimethyl-6-nitro-2,3-dihydro-indol-1-ylmethyl)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)CN1CC(C2=CC=C(C=C12)[N+](=O)[O-])(C)C | C21H31N3O4
